US06677348B2
2-Methyl-1-{3-[(3-phenylprop-2-ynyl)oxy]propyl}-1H-imidazo[4,5-c]quinolin-4-amine (1.4 g, 3.779 mmol) was combined with toluene (15 mL) in a Parr flask and heated to reflux. The resulting solution was cooled to room temperature and purged with nitrogen. Palladium (0.6 g 10% palladium on carbon) was added to the solution under nitrogen, and the flask was pressurized with hydrogen at 310 kPa for 2.75 hours. Monitoring by HNMR indicated incomplete reaction. More 10% palladium on carbon (0.16 g) was added, and after an additional 2.5 hours at 310 kPA of hydrogen, the reaction was determined to be complete. The catalyst was filtered off, and the volatiles were removed under reduced pressure. The resulting white solid was recrystallized from acetonitrile and dried for 5 days to provide 1.0723 g of 2-methyl-1-[3-(3-phenylpropoxy)propyl]-1H-imidazo[4,5-c]quinolin-4-amine, m.p. 145.0-146.1° C.

reactant | 2-Methyl-1-{3-[(3-phenylprop-2-ynyl)oxy]propyl}-1H-imidazo[4,5-c]quinolin-4-amine | 3.779 mmol, 1.4 g | CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCOCC#CC1=CC=CC=C1 | C23H22N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.16 g | [Pd] | Pd
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-1-[3-(3-phenylpropoxy)propyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.0723 g | CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCOCCCC1=CC=CC=C1 | C23H26N4O
